US05436257
5-(4-{2(R)-[2(R)-(3-Chlorophenyl)-2-hydroxyethyl-amino]propoxy}benzyl)thiazolidine-2,4-dione
88 g of tetrabutylammonium fluoride were added to a solution of 46.2 g of 5-(4-{2(R)-[2(R)-(3-chlorophenyl)-2-t-butyldimethylsilyloxyethylamino]propoxy}benzyl)thiazolidine-2,4-dione [prepared as described in Preparation 3]in 500 ml of tetrahydrofuran, whilst ice-cooling, and the mixture was stirred at room temperature for 15 hours. At the end of this time, the tetrahydrofuran was distilled off under reduced pressure. The residue was then mixed with water and extracted with ethyl acetate. The extract was washed-with a saturated aqueous solution of sodium chloride and dried over anhydrous sodium sulfate, after which the solvent was distilled off under reduced pressure. The residue was then purified by column chromatography through silica gel, using a 5:1 by volume mixture of ethyl acetate and ethanol as the eluent, to obtain the title compound in the form of crude crystals. These crystals were then recrystallized from a mixture of ethyl acetate and ethanol to give 27.1 g of the title compound melting at between 100° C. and 112° C.

reactant | tetrabutylammonium fluoride | 88 g | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 5-(4-{2(R)-[2(R)-(3-chlorophenyl)-2-t-butyldimethylsilyloxyethylamino]propoxy}benzyl)thiazolidine-2,4-dione | 46.2 g | ClC=1C=C(C=CC1)[C@H](CN[C@@H](COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1)C)O[Si](C)(C)C(C)(C)C | C27H37ClN2O4SSi
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 5-(4-{2(R)-[2(R)-(3-Chlorophenyl)-2-hydroxyethyl-amino]propoxy}benzyl)thiazolidine-2,4-dione | ClC=1C=C(C=CC1)[C@H](CN[C@@H](COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1)C)O | C21H23ClN2O4S
